US08106043B2
2-(2-Hydroxyethylamino)-1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone:
To a stirred solution of 6-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine (500 mg, 2.55 mmol) in tetrahydrofuran (10 mL) was added 2-chloroacetyl chloride (302 mg, 2.68 mmol). The resulting mixture was stirred at 60° C. for 5 minutes. The reaction first turns cloudy then clarifies. At this time, the reaction was cooled to 0° C., and hydrogen chloride (4 M in dioxane; 5.10 mL, 20.38 mmol) and 2-aminoethanol (1.868 g, 30.6 mmol) were added to the reaction simultaneously in a dropwise fashion. The resulting mixture was warmed to room temperature, and water (5 mL) was added to aid dissolution. The mixture was then stirred at 60° C. for 3 hours. The mixture was then diluted with water and saturated sodium carbonate and then extracted with dichloromethane (5×). The combined organic layers were dried, filtered, concentrated, and then chromatographed in 1:4:5 (2M NH3 in methanol):ethyl acetate:dichloromethane giving the desired product (473 mg, 62.4%) as a pale yellow solid. 1H NMR (DMSO-d6) δ 8.36 (d, J=2.1 Hz, 1H), 7.93 (dd, J=8.7, 2.1 Hz, 1H), 7.50 (d, J=9.0 Hz, 1H), 4.50 (t, J=5.1 Hz, 1H), 3.96-3.90 (m, 2H), 3.56 (s, 2H), 3.48-3.40 (m, 2H), 3.32-3.26 (m, 2H), 2.58 (t, J=5.0 Hz, 2H), 2.18-2.08 (brs, 1H); ESI-MS (m/z, %): 298 (MH+, 100).

reactant | 6-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine | 2.55 mmol, 500 mg | [N+](=O)([O-])C1=CC2=C(SCCN2)C=C1 | C8H8N2O2S
reactant | 2-chloroacetyl chloride | 2.68 mmol, 302 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrogen chloride | 20.38 mmol, 4 M, 5.10 mL | Cl | ClH
reactant | 2-aminoethanol | 30.6 mmol, 1.868 g | NCCO | C2H7NO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 5 mL | O | H2O
product | 2-(2-Hydroxyethylamino)-1-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanone | OCCNCC(=O)N1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-] | C12H15N3O4S
